US08865713B2
Step F: 1-(4-Bromo-6-fluoro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-(4-bromo-6-fluoro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (16.0 mg, 45.0 mmol), LiOH (10.0 mg, 0.230 mmol), THF (0.5 mL), and H2O (0.17 mL) was stirred at 23° C. for 16 h. THF was removed under reduced pressure and then aqueous HCl was added. The resulting precipitate was collected and washed with water to yield the titled compound (10.0 mg, 67%). MS (ESI/CI): mass calcd. for C11H6BrFN4O2, 325.1; m/z found, 326.0 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 13.82 (s, 1H), 12.94 (s, 1H), 8.87 (s, 1H), 8.30 (d, J=0.5 Hz, 1H), 7.45 (dd, J=9.6, 2.3 Hz, 1H), 7.32 (s, 1H).

reactant | 1-(4-bromo-6-fluoro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 45.0 mmol, 16.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C=C2Br)F | C13H10BrFN4O2
reactant | LiOH | 0.230 mmol, 10.0 mg | [Li+].[OH-]
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.17 mL | O | H2O
product | 1-(4-Bromo-6-fluoro-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid | 10.0 mg, 67% | BrC1=CC(=CC=2NC(=NC21)N2N=CC(=C2)C(=O)O)F | C11H6BrFN4O2
